US07781478B2
Bromoacetic acid (52 mg, 0.37 mmol) is combined with EDCI hydrochloride (62 mg, 0.4 mmol) and acetonitrile (900 μL) to form a homogeneous solution. 2-(3-Amino-4-hydroxyphenyl)-1-ethyl-6-methoxy-1H-indole-3-carbonitrile (100 mg, 0.33 mmol), prepared as in example 1BG, step B, is added to the solution. A thick paste soon forms. Another 1.1 mL of acetonitrile is added and the mixture is then stirred at room temperature for 2 hours. The reaction mixture is then partitioned between H2O and EtOAc. The organic layer is dried and concentrated. Purification by silica gel chromatography (4/1, CH2Cl2/EtOAc) yields 2-chloro-N-[5-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-2-hydroxyphenyl]acetamide (82 mg, 60%), compound 333, as a white solid.

reactant | Bromoacetic acid | 0.37 mmol, 52 mg | BrCC(=O)O | C2H3BrO2
reactant | EDCI hydrochloride | 0.4 mmol, 62 mg | CCN=C=NCCCN(C)C.Cl
reactant | 2-(3-Amino-4-hydroxyphenyl)-1-ethyl-6-methoxy-1H-indole-3-carbonitrile | 0.33 mmol, 100 mg | NC=1C=C(C=CC1O)C=1N(C2=CC(=CC=C2C1C#N)OC)CC | C18H17N3O2
solvent | acetonitrile | 1.1 mL | C(C)#N | C2H3N
solvent | acetonitrile | 900 μL | C(C)#N | C2H3N
product | 2-chloro-N-[5-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-2-hydroxyphenyl]acetamide | 82 mg, 60% | ClCC(=O)NC1=C(C=CC(=C1)C=1N(C2=CC(=CC=C2C1C#N)OC)CC)O | C20H18ClN3O3
